US08729102B2
B) 4-[6-(cyclopropylmethoxy)-3-fluoroimidazo[1,2-a]pyridin-2-yl]phenol
A mixture of 4-[6-(cyclopropylmethoxy)imidazo[1,2-a]pyridin-2-yl]phenyl acetate (425 mg), 2,6-dichloro-1-fluoropyridinium trifluoromethanesulfonate (1.25 g) and acetonitrile (6 mL) was stirred at room temperature for 4 hr. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted twice with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), and the obtained compound was dissolved in methanol (6 mL). 1M Aqueous sodium hydroxide solution (0.66 mL) was added at room temperature, and the mixture was stirred for 1 hr, and concentrated under reduced pressure. The residue was diluted with ethyl acetate and water, and the mixture was neutralized with 1M hydrochloric acid, and the aqueous layer was separated from the organic layer. The separated aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a pale-brown powder (54 mg).

reactant | 4-[6-(cyclopropylmethoxy)imidazo[1,2-a]pyridin-2-yl]phenyl acetate | 425 mg | C(C)(=O)OC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)OCC2CC2)C1 | C19H18N2O3
reactant | 2,6-dichloro-1-fluoropyridinium trifluoromethanesulfonate | 1.25 g | FC(S(=O)(=O)[O-])(F)F.ClC1=[N+](C(=CC=C1)Cl)F
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 4-[6-(cyclopropylmethoxy)-3-fluoroimidazo[1,2-a]pyridin-2-yl]phenol | 54 mg | C1(CC1)COC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)O)F | C17H15FN2O2
